US09034882B2
To a solution of methyl 2-tert-butoxy-2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetate (25 mg, 0.054 mmol) in dioxane (0.8 ml) was added sodium hydroxide (0.8 mL, 0.8 mmol). The resulting mixture was warmed to 50° C. and stirred for 4 h. then filtered and purified by Pre-HPLC to afford 2-tert-butoxy-2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetic acid (18 mg, 0.039 mmol, 72.8% yield). 1H-NMR (400 MHz, CDCl3) δ 1.17 (6 H, s), 1.30 (9 H, s), 1.57-1.61 (2 H, m), 1.70-1.72 (2 H, m), 2.70 (3H, s), 5.83 (1 H, s), 7.49-7.54 (3 H, m), 8.35-8.37 (2 H, m).

reactant | methyl 2-tert-butoxy-2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetate | 0.054 mmol, 25 mg | C(C)(C)(C)OC(C(=O)OC)C=1C(=NC=2N(C1N1CCC(CC1)(C)C)N=C(N2)C2=CC=CC=C2)C | C26H35N5O3
reactant | sodium hydroxide | 0.8 mmol, 0.8 mL | [OH-].[Na+]
solvent | dioxane | 0.8 ml | O1CCOCC1 | C4H8O2
product | 2-tert-butoxy-2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetic acid | 0.039 mmol, 18 mg, 72.8% yield | C(C)(C)(C)OC(C(=O)O)C=1C(=NC=2N(C1N1CCC(CC1)(C)C)N=C(N2)C2=CC=CC=C2)C | C25H33N5O3
